US06706715B2
1-(4-Cyano-phenyl)-3-[-(1-phenyl-ethylamino)-phenyl]-urea
1.16 g (10.8 mmol) 1,2-phenylene diamine was dissolved in 10 ml dimethyl formamide, 2.1 g (15 mmol) potassium carbonate and 1.47 ml (10.8 mmol) 1-bromo-1-phenylethane were added with stirring. After 8 hours (h) at rt, most of the starting materials were consumed. Potassium bromide was filtered off, the solvent removed, the mixture redissolved in 20 ml THF and then 1,15 g (8 mmol) 4-cyanophenylisocyanate were slowly added and stirred for another 50 h at rt. The mixture was worked up by filtration, evaporated to dryness, dissolved in ethyl acetate and washed with diluted HCl, sodium carbonate solution and brine.

reactant | 1,2-phenylene diamine | 10.8 mmol, 1.16 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-1-phenylethane | 10.8 mmol, 1.47 ml | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | 4-cyanophenylisocyanate | 8 mmol, 1,15 g | C(#N)C1=CC=C(C=C1)N=C=O | C8H4N2O
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-Cyano-phenyl)-3-[-(1-phenyl-ethylamino)-phenyl]-urea | C(#N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)NC(C)C1=CC=CC=C1 | C22H20N4O
